US04025505
The mixture of 1.5 g of N-(4-nitro-o-tolyl)-4-carbamoylphthalimide 200 ml of ethyl acetate and 0.3 g of platinum oxide is hydrogenated at 2.5 atm. and about 40° for 50 minutes. It is filtered, the filtrate concentrated and the precipitate collected, to yield the N-(4-amino-o-tolyl)-4-carbamoylphthalimide melting at 240°-242°.

reactant | N-(4-nitro-o-tolyl)-4-carbamoylphthalimide | 200 ml, 1.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(N)=O)=O | C16H11N3O5
catalyst | platinum oxide | 0.3 g | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-carbamoylphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(N)=O)=O | C16H13N3O3
